US06307047B1
2-(2,2,2-Trifluoroethyl)-4-benzyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone
The title compound was prepared by adding 1.0 M benzylmagnesium chloride in ether (0.53 mL, 0.53 mmol) to a THF (20 mL) solution of 2-(2,2,2-trifluoroethyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone (150 mg, 0.41 mmol), prepared according to the method of Example 193E, at 0° C., then allowing the mixture to warm to room temperature over 2 hours. After an aqueous work-up, the crude material was purified by column chromatography (silica gel, 65:35 hexanes/ethyl acetate) and crystallized from ethyl acetate/hexanes to provide white, crystalline product (yield: 74 mg, 43%). mp 112-114° C. 1H NMR (300 MHz, CDCl3) δ 3.12 (s, 3H), 3.94 (s, 2H), 4.85 (q, J=12 Hz, 2H), 6.99 (dd, J=7.5 Hz, 3 Hz, 2H), 7.2 (m, 3H), 7.48 (d, J=9 Hz, 2H), 7.72 (s, 1H), 8.06 (d, J=9 Hz, 2H). MS (DCI/NH3) m/z 423 (M+H)+. Anal. calc. for C20H17F3N2O3S: C, 56.86; H, 4.05; N, 6,63. Found: C, 56.60; H, 4.13; N, 6.57.

reactant | benzylmagnesium chloride | 1.0 M | C(C1=CC=CC=C1)[Mg]Cl
reactant | ether | 0.53 mmol, 0.53 mL | CCOCC | C4H10O
reactant | 2-(2,2,2-trifluoroethyl)-4-chloro-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | 0.41 mmol, 150 mg | FC(CN1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C13H10ClF3N2O3S
reactant | NH3 | N | H3N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(2,2,2-Trifluoroethyl)-4-benzyl-5-[4-(methylsulfonyl)phenyl]-3(2H)-pyridazinone | FC(CN1N=CC(=C(C1=O)CC1=CC=CC=C1)C1=CC=C(C=C1)S(=O)(=O)C)(F)F | C20H17F3N2O3S
